US03963717
To a solution of 2.8 g. of 2,3-dihydro-6-benzofuranamine in 150 ml. of methanol is added 18 ml. of isopropyl iodide and 26.5 ml. of triethylamine. The solution is refluxed for 60 hours and then concentrated in vacuo. The resultant oil is extracted repeatedly with diethyl ether. The extracts are combined, filtered through Celite, and the ether removed in vacuo to give an oil of N-isopropyl-2,3-dihydro-6-benzofuranamine.

reactant | 2,3-dihydro-6-benzofuranamine | O1CCC2=C1C=C(C=C2)N | C8H9NO
reactant | methanol | CO | CH4O
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-isopropyl-2,3-dihydro-6-benzofuranamine | C(C)(C)NC1=CC2=C(CCO2)C=C1 | C11H15NO
